US06833387B1
Methyl 3-aminoindole-2-carboxylate
To a solution of ethyl 3-aminoindole-2-carboxylate [Prepared according to P. Unangst. J. Het. Chem., 1983, 20, 495] (5.0 g) in methanol (50 ml) was added sodium methoxide (6.5 g). The resulting mixture was stirred for 4 hours and then quenched with saturated ammonium chloride solution. The resulting mixture was extracted with dichloromethane, dried (MgSO4) and evaporated to give a gum which was purified by column chromatography using iso-hexane:ethyl acetate (1:4) as eluent to give the desired product (1.95 g, 42%); NMR d (CD3SOCD3), 3.8 (s, 3H), 5.7 (s, 2H), 6.8-6.9 (m, 1H), 7.2 (m, 2H), 7.7 (d, 1H); M/z (+) 191.1 (MH+).

reactant | ethyl 3-aminoindole-2-carboxylate | 5.0 g | NC1=C(NC2=CC=CC=C12)C(=O)OCC | C11H12N2O2
reactant | sodium methoxide | 6.5 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | Methyl 3-aminoindole-2-carboxylate | 1.95 g, 42% | NC1=C(NC2=CC=CC=C12)C(=O)OC | C10H10N2O2
